US05068234
To a stirred mixture of 58 g. (0.93 mole) of aluminum chloride in 240 ml. of MDC was added a solution of 28.6 g. (0.18 mole) of 2-fluorobenzoyl chloride in 100 ml. of MDC. The resulting mixture was stirred for two hours and then added dropwise to a solution of 29 g. (0.149 mole) of 1-(3-pyridinyl)-1H-indole in 200 ml. of MDC. When addition was complete the reaction mixture was stirred for fifteen minutes and then poured into 1 liter of water. The organic layer was separated, washed with aqueous sodium bicarbonate, dried over magnesium sulfate and taken to dryness in vacuo to give 50 g. of a red oil. The latter was dissolved in 200 ml. of isopropanol, the solution was treated with 10 ml. of concentrated hydrochloric acid, and the solid which separated was collected and dried to give 24.8 g. of product which was recrystallized from ethanol to give 3-(2-fluorobenzoyl)-1-(3-pyridinyl)-1H-indole hydrochloride, m.p. 205°-212° C.

reactant | aluminum chloride | 0.93 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-fluorobenzoyl chloride | 0.18 mole | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | 1-(3-pyridinyl)-1H-indole | 0.149 mole | N1=CC(=CC=C1)N1C=CC2=CC=CC=C12 | C13H10N2
reactant | water | 1 liter | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(2-fluorobenzoyl)-1-(3-pyridinyl)-1H-indole hydrochloride | Cl.FC1=C(C(=O)C2=CN(C3=CC=CC=C23)C=2C=NC=CC2)C=CC=C1 | InChI=1S/C20H13FN2O.ClH/c21-18-9-3-1-8-16(18)20(24)17-13-23(14-6-5-11-22-12-14)19-10-4-2-7-15(17)19;/h1-13H;1H
